US04861769
To a solution of 7β-[2-(2-aminothiazol-4-yl)-2-(cyclopropyloxyimino)acetamido]-3-(1-pyridinio)methyl-3-cephem-4-carboxylate (syn isomer) (750 mg) in water (50 ml) was added concentrated hydrochloric acid (0.265 ml). The solution was lyophilized to give 7β-[2-(2-aminothiazol-4-yl)-2-cyclopropyloxyimino)acetamido]-3-(1-pyridinio)methyl-3-cephem-4-carboxylic acid chloride hydrochloride (syn isomer) (874 mg).

reactant | 7β-[2-(2-aminothiazol-4-yl)-2-(cyclopropyloxyimino)acetamido]-3-(1-pyridinio)methyl-3-cephem-4-carboxylate | 750 mg | NC=1SC=C(N1)C(C(=O)N[C@H]1[C@@H]2N(C(=C(CS2)C[N+]2=CC=CC=C2)C(=O)[O-])C1=O)=NOC1CC1 | C21H20N6O5S2
reactant | hydrochloric acid | 0.265 ml | Cl | ClH
solvent | water | 50 ml | O | H2O
product | 3-(1-pyridinio)methyl-3-cephem-4-carboxylic acid chloride hydrochloride | 874 mg | Cl.[N+]1(=CC=CC=C1)CC=1CS[C@H]2N(C1C(=O)Cl)C(C2)=O | InChI=1S/C13H12ClN2O2S.ClH/c14-13(18)12-9(7-15-4-2-1-3-5-15)8-19-11-6-10(17)16(11)12;/h1-5,11H,6-8H2;1H/q+1;/t11-;/m1./s1
